US06627651B1
Into a solution of 3-ethoxy-4-(2-propoxyethoxy)benzaldehyde (7.34 g) in methanol (30 ml) was added at 0° C. sodium borohydride (1.10 g), and the resulting mixture was stirred for one hour. After concentration under reduced pressure, 1 N hydrochloric acid was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated solution of sodium chloride and was dried with magnesium sulfate. The resulting organic layer was concentrated under reduced pressure to obtain 3-ethoxy-4-(2-propoxyethoxy)benzyl alcohol (7.35 g) as a colorless oily substance.

reactant | 3-ethoxy-4-(2-propoxyethoxy)benzaldehyde | 7.34 g | C(C)OC=1C=C(C=O)C=CC1OCCOCCC | C14H20O4
reactant | sodium borohydride | 1.10 g | [BH4-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 3-ethoxy-4-(2-propoxyethoxy)benzyl alcohol | 7.35 g | C(C)OC=1C=C(CO)C=CC1OCCOCCC | C14H22O4
